US08492409B2
(3) Synthesis of 3-bromo-1-(3,5-dichloropyridin-2-yl)-1H-pyrazole-5-carboxylic acid
To a 100 mL flask, ethyl 3-bromo-1-(3,5-dichloropyridin-2-yl)-1H-pyrazole-5-carboxylate (2.0 g, 5.5 mmol), methanol (10 mL), water (10 mL) and sodium hydroxide (0.3 g, 5.5 mmol) were added. After being stirred at room temperature for 1 hour, the mixture reacted completely. The reaction mixture was concentrated by rotary evaporator to about 10 mL as a dark brown solution. Then water (40 mL) was added into the dark brown solution. The aqueous solution was extracted with ethyl ether (50 mL) and acidified with concentrated hydrochloric acid to pH of 4. The precipitate was isolated by filtration, washed with water (2×50 mL) and dried to give the product (0.97 g) as white solid in 48% yield.

reactant | ethyl 3-bromo-1-(3,5-dichloropyridin-2-yl)-1H-pyrazole-5-carboxylate | 5.5 mmol, 2.0 g | BrC1=NN(C(=C1)C(=O)OCC)C1=NC=C(C=C1Cl)Cl | C11H8BrCl2N3O2
reactant | methanol | 10 mL | CO | CH4O
reactant | sodium hydroxide | 5.5 mmol, 0.3 g | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
product | 3-bromo-1-(3,5-dichloropyridin-2-yl)-1H-pyrazole-5-carboxylic acid | 0.97 g, 48% yield | BrC1=NN(C(=C1)C(=O)O)C1=NC=C(C=C1Cl)Cl | C9H4BrCl2N3O2
